US07414076B2
Preparation of 3-cycloheptylamino-1-propanesulfonic acid (Compound CK)
Cycloheptylamine (3.9 mL, 30 mmol) was added to a solution of 1,3-propane sultone (4.1 g, 33 mmol) in THF (65 mL). The mixture was heated at reflux for 5 hours with a heating mantle. The mixture was cooled to room temperature and the solid was collected by filtration, and then dried in a vacuum oven for 1 hour at 60° C. (6.21 g). The solid material was dissolved in methanol/water (30 mL/3 mL, v/v). The solution was cooled slowly to room temperature, and further cooled with an ice-bath. The solid product was collected by filtration, rinsed with methanol, air-dried for 15 minutes, and further dried in a vacuum oven at 60° C. Compound CK was obtained as small white flakes (5.08 g, 72% yield). m.p. 341-43° C. 1H NMR (500 MHz, D2O) δ 1.21-1.42 (m, 8H), 1.45-1.51 (m, 2H), 1.79-1.89 (m, 4H), 2.76 (7, J=7.3 Hz, 2H), 2.96 (t, J=7.8 Hz, 2H), 3.35 (m, J=4.6 Hz, 1H). 13C NMR (125 MHz, D2O) δ 21.6, 23.3, 27.3, 30.5, 43.6, 48.0, 59.6. FT-IR (KBr) vmax 2924, 1615, 1464, 1243.

reactant | Cycloheptylamine | 30 mmol, 3.9 mL | C1(CCCCCC1)N | C7H15N
reactant | 1,3-propane sultone | 33 mmol, 4.1 g | C1COS(=O)(=O)C1 | C3H6O3S
reactant | KBr | [K+].[Br-]
solvent | THF | 65 mL | C1CCOC1 | C4H8O
product | 3-cycloheptylamino-1-propanesulfonic acid | 72% yield | C1(CCCCCC1)NCCCS(=O)(=O)O | C10H21NO3S
